US07960552B2
To a solution of ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (1.52 g, 4.47 mmol) in THF (20 mL) at 0° C. was slowly added a 1.5 M solution of diisobutylaluminum hydride in toluene (6.26 mL, 9.39 mmol). The solution was allowed to warm slowly to ambient temperature. After approximately 4 hr of stirring, the solution was re-cooled to 0° C. and an additional 6 mL of diisobutylaluminum hydride was added. After approximately 1.5 hr of stirring the mixture was re-cooled to 0° C., quenched with aqueous Rochelle's salt and allowed to stir overnight while warming to ambient temperature. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed with Rochelle's salt followed by with brine and then dried over magnesium sulfate and concentrated to afford [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol (1.30 g, 98%). 1H-NMR (400 MHz, DMSO-d6) δ 7.61-7.51 (m, 3H), 4.87 (t, J=5 Hz, 1H), 4.10 (d, J=5 Hz, 2H), 3.91-3.83 (m, 1H), 2.42-2.28 (m, 4H), 2.08-1.98 (m, 1H), 1.94-1.84 (m, 1H).

reactant | ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 4.47 mmol, 1.52 g | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C16H15Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 9.39 mmol, 6.26 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 6 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | 1.30 g, 98% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C14H13Cl2NO2
